US07414061B2
5-Methyl-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole
As described for Example 12, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (100 mg, 0.44 mmol) using 1-fluoro-4-nitrobenzene instead of 4-fluoroacetophenone was converted to the title compound (97 mg, 64%) which was obtained as an off-white solid. MS: m/e=347.3 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.44 mmol, 100 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 5-Methyl-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole | 97 mg, 64% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C19H14N4O3
